US08084470B2
132 mg (0.81 mmol) of CDI were added to a solution of 250 mg (0.77 mmol) of 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid in DCM (6 ml), and the mixture was stirred for 1 h at RT. A solution of 82 mg (0.77 mmol) of benzylamine in DCM (6 ml) was then added, and stirring was continued for a further 16 hours at RT. The reaction solution was then washed in each case three times with a sat. aq. ammonium chloride solution and saturated aqueous NaHCO3 solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. 266 mg (0.64 mmol, 83%) of N-benzyl-2-(2-(phenylsulfonyl)ethylthio)nicotinamide were obtained as residue.

reactant | CDI | 0.81 mmol, 132 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid | 0.77 mmol, 250 mg | C1(=CC=CC=C1)S(=O)(=O)CCSC1=C(C(=O)O)C=CC=N1 | C14H13NO4S2
reactant | benzylamine | 0.77 mmol, 82 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-(2-(phenylsulfonyl)ethylthio)nicotinamide | 0.64 mmol, 266 mg, 83% | C(C1=CC=CC=C1)NC(C1=C(N=CC=C1)SCCS(=O)(=O)C1=CC=CC=C1)=O | C21H20N2O3S2
